US04954648
24 gr of bromine and 14 gr of brominetrifluoride were placed in a 50 ml three necked flask. The mixture was stirred vigorously and swept by the aid of a stream of dry nitrogen into a 250 ml three necked flask equipped with a mechanical stirrer, thermometer and double faced condensor, containing 60 gr of benzotrifluoride. Both mixtures were stirred vigorously and icy water was circulated through the condensor, until all the mixture was swept over to the second flask. When no mixture was left in the first flask the reaction was stopped and treated as described in example 21. 25 gr of benzotrifluoride was recovered under distillation and 33 gr of 3-bromobenzotrifluoride was obtained, 61% yield based on reacted benzotrifluoride.

reactant | bromine | 24 gr | BrBr | Br2
reactant | brominetrifluoride | 14 gr | Br(F)(F)F | BrF3
reactant | benzotrifluoride | 60 gr | C1(=CC=CC=C1)C(F)(F)F | C7H5F3
solvent | water | O | H2O
product | 3-bromobenzotrifluoride | 33 gr, 61% yield | BrC=1C=C(C=CC1)C(F)(F)F | C7H4BrF3
